US08609696B2
This compound is synthesized as described by adaptation of the following reference: Lin et al, Tetrahedron Lett., 2006, 47, 17, 2883. To a stirred mixture of 4-fluorobenzene-1,2-diamine (1.0 g, 7.93 mmol) and 1-[(tert-butoxy)carbonyl]piperidine-4-carboxylic acid (1.82 g, 7.93 mmol) in pyridine (4 mL) is added triphenyl phosphite (2.49 mL, 9.51 mmol). The reaction mixture is heated under reflux for 18 h. The reaction mixture is cooled to room temperature and diluted with EtOAc (40 mL). The solution is washed with 1M aqueous HCl (8 mL) followed by saturated aqueous NaHCO3 (8 mL) and water (5 mL) to give an oily residue. The crude product is purified by column chromatography (Isolute column, eluent: DCM, 3% MeOH) to afford 0.81 g of tert-butyl-4-(5-fluoro-1H-1,3-benzodiazol-2-yl)piperidine-1-carboxylate.

reactant | 4-fluorobenzene-1,2-diamine | 7.93 mmol, 1.0 g | FC=1C=C(C(=CC1)N)N | C6H7FN2
reactant | 1-[(tert-butoxy)carbonyl]piperidine-4-carboxylic acid | 7.93 mmol, 1.82 g | C(C)(C)(C)OC(=O)N1CCC(CC1)C(=O)O | C11H19NO4
reactant | triphenyl phosphite | 9.51 mmol, 2.49 mL | P(OC1=CC=CC=C1)(OC1=CC=CC=C1)OC1=CC=CC=C1 | C18H15O3P
solvent | pyridine | 4 mL | N1=CC=CC=C1 | C5H5N
solvent | EtOAc | 40 mL | CCOC(=O)C | C4H8O2
product | tert-butyl-4-(5-fluoro-1H-1,3-benzodiazol-2-yl)piperidine-1-carboxylate | 0.81 g | C(C)(C)(C)OC(=O)N1CCC(CC1)C1=NC2=C(N1)C=CC(=C2)F | C17H22FN3O2
